US05204461
Synthesis of N-Cyclohexyl-2-thiazolinylsulfenamide
A mixture of 12.3 g (124 mmole) of cyclohexylamine and 30 ml of water was thoroughly stirred in an ice bath, and 30 ml of a 1N sodium hydroxide aqueous solution having dissolved therein 3.57 g (30 mmole) of 2-mercaptothiazoline and 22.3 ml (30 mmole) of a 10% sodium hypochlorite aqueous solution were simultaneously added thereto dropwise. After allowing the mixture to react at room temperature for 1 hour, the reaction mixture was filtered with suction. The resulting solid was washed with water and dried under reduced pressure to obtain 5.61 g (26 mmole) of the titled compound in a percent yield of 87%.

reactant | cyclohexylamine | 124 mmole, 12.3 g | C1(CCCCC1)N | C6H13N
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | 2-mercaptothiazoline | 30 mmole, 3.57 g | SC=1SCCN1 | C3H5NS2
reactant | sodium hypochlorite | Cl[O-].[Na+]
solvent | water | 30 ml | O | H2O
product | N-Cyclohexyl-2-thiazolinylsulfenamide | 26 mmole, 5.61 g, yield of 87% | C1(CCCCC1)NSC=1SCCN1 | C9H16N2S2
